US08097759B2
Preparation of N-{[3,5-bis(trifluoromethyl)phenyl]methyl}-5-bromo-2-hydroxybenzamide (Compound No. 1).
Under argon atmosphere, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (it is abbreviated as WSC•HCl hereafter; 192 mg, 1 mmol) was added to a mixture of 5-bromosalicylic acid (217 mg, 1 mmol), 3,5-bis(trifluoromethyl)benzylamine (243 mg, 1 mmol), 4-dimethylaminopyridine (12 mg, 0.1 mmol) and tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (244.8 mg, 55.4%) as a white solid.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | WSC•HCl | CCN=C=NCCCN(C)C.Cl
reactant | 5-bromosalicylic acid | 1 mmol, 217 mg | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,5-bis(trifluoromethyl)benzylamine | 1 mmol, 243 mg | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.1 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-{[3,5-bis(trifluoromethyl)phenyl]methyl}-5-bromo-2-hydroxybenzamide | 244.8 mg, 55.4% | FC(C=1C=C(C=C(C1)C(F)(F)F)CNC(C1=C(C=CC(=C1)Br)O)=O)(F)F | C16H10BrF6NO2
